US04395406
1-(2-Trimethylammonioethyl)-5-chloropyrimid-2-one iodide
1-(2-Dimethylaminoethyl)-5-chloropyrimid-2-one (0.004 mol) and methyl iodide (0.006 mol) were dissolved in acetonitrile (20 ml) and the reaction mixture was stirred at room temperature for 6 h. The precipitate was then collected, washed with ether and recrystallized by dissolving in boiling isopropanol (50 ml) to which water (in all 14 ml) was added dropwise, until dissolution was complete; yield 50%, m.p. 235° C. (decomp.). (Found: C, 31.34; H, 4.48. Calc. for C9H15ClIN3O: C, 31.46; H, 4.40).

reactant | 1-(2-Dimethylaminoethyl)-5-chloropyrimid-2-one | 0.004 mol | CN(CCN1C(N=CC(=C1)Cl)=O)C | C8H12ClN3O
reactant | methyl iodide | 0.006 mol | CI | CH3I
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(2-Trimethylammonioethyl)-5-chloropyrimid-2-one iodide | yield 50% | [I-].C[N+](CCN1C(N=CC(=C1)Cl)=O)(C)C | InChI=1S/C9H15ClN3O.HI/c1-13(2,3)5-4-12-7-8(10)6-11-9(12)14;/h6-7H,4-5H2,1-3H3;1H/q+1;/p-1
